US03991070
Following the procedure of Example 1, 5-nitro-2-[3-phthalimidomethyl-4H- 1,2,4-triazol-4-yl]-2',6'-difluorobenzophenone is reacted with N-chloroacetamide to form 5-nitro-2-[3-chloro-5-phthalimidomethyl-4H-1,2,4-triazol-4-yl]-2',6'-difluorobenzophenone.

reactant | 5-nitro-2-[3-phthalimidomethyl-4H- 1,2,4-triazol-4-yl]-2',6'-difluorobenzophenone | [N+](=O)([O-])C=1C=CC(=C(C(=O)C2=C(C=CC=C2F)F)C1)N1C(=NN=C1)CN1C(C=2C(C1=O)=CC=CC2)=O | C24H13F2N5O5
reactant | N-chloroacetamide | ClNC(C)=O | C2H4ClNO
product | 5-nitro-2-[3-chloro-5-phthalimidomethyl-4H-1,2,4-triazol-4-yl]-2',6'-difluorobenzophenone | [N+](=O)([O-])C=1C=CC(=C(C(=O)C2=C(C=CC=C2F)F)C1)N1C(=NN=C1CN1C(C=2C(C1=O)=CC=CC2)=O)Cl | C24H12ClF2N5O5
